US07223766B2
5-Amino-3-phenyl-isoxazole-4-carbonitrile
Hydroxylamine hydrochloride was suspended in water (30 ml) and added sodium hydroxide (4.4 g, 0.11 mole), then ethanol (40 ml) followed by batchwise addition of 2-(Ethoxy-phenyl-methylene)-malononitrile(21.7 g, 0.11 mole). Heated reaction mixture to 50° C. for 2 hours. Removed ethanol under vacuum and filtered precipitate. Redissolved precipitate in 50% ethyl acetate/hexanes and chromatographed on silica gel to give 8.2 g product after removal of solvent (yield: 40%).

reactant | Hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 0.11 mole, 4.4 g | [OH-].[Na+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | 2-(Ethoxy-phenyl-methylene)-malononitrile | 0.11 mole, 21.7 g | C(C)OC(=C(C#N)C#N)C1=CC=CC=C1 | C12H10N2O
solvent | water | 30 ml | O | H2O
product | 5-Amino-3-phenyl-isoxazole-4-carbonitrile | 8.2 g | NC1=C(C(=NO1)C1=CC=CC=C1)C#N | C10H7N3O
